US08835428B2
Step 2: 3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carboxylic acid
The title compound was prepared from 3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carboxylic acid ethyl ester as set forth in example 8 and was obtained in 95.6% yield. Mass (ES+): 324 (M++1); IR (KBr): 3312, 1711, 1645, 1599, 1461; 1H NMR (DMSO-d6) δ: 6.97 (t, 1H), 7.28 (t, 2H), 7.45 (d, 2H), 7.59 (d, 2H), 7.71 (s, 1H), 7.87 (d, 2H), 8.76 (s, 1H), 8.96 (s, 1H).

reactant | 3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(=NO1)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C19H17N3O4
reactant | KBr | [K+].[Br-]
product | 3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carboxylic acid | 95.6% yield | C1(=CC=CC=C1)NC(NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)O)=O | C17H13N3O4
